US06890947B2
Rac-3-(1H-Indol-5-yl)-2-propoxy-propionic Acid
0.96 g rac-2-propoxy-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-5-yl]-propionic acid were dissolved in 40 ml N,N-dimethylformamide. 0.94 ml Ethylene diamine were added, followed by 7.63 ml of a tetra-butylammonium fluoride solution (1 molar in tetrahydrofuran); a small amount of molecular sieves was then added to the reaction mixture and it was heated to 80° C. After 6 hours, the mixture was cooled to r.t., filtered and the filtrate was poured into ice water and extracted 3 times with dichloromethane. The organic phases were washed with water, dried over MgSO4, filtered again and evaporated. The crude rac-3-(1H-indol-5-yl)-2-propoxy-propionic acid was used for the next step without purification.

reactant | rac-2-propoxy-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-5-yl]-propionic acid | 0.96 g | C(CC)OC(C(=O)O)CC=1C=C2C=CN(C2=CC1)COCC[Si](C)(C)C | C20H31NO4Si
reactant | Ethylene diamine | 0.94 ml | C(CN)N | C2H8N2
reactant | tetra-butylammonium fluoride | 1 molar, 7.63 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Rac-3-(1H-Indol-5-yl)-2-propoxy-propionic Acid | N1C=CC2=CC(=CC=C12)CC(C(=O)O)OCCC | C14H17NO3
